US08669234B2
2-[5-(4-Chloro-2-formyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl Ester:
2-(5-Bromo-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.00 g, 6.32 mmol), 4-Chloro-2-formyl-phenylboronic acid (1.17 g, 6.32 mmol), Pd(PPh3)4 (365 mg, 0.316 mmol), Pd(dppf)C12-DCM (258 mg, 0.316 mmol) K2CO3 (2 M, 6.3 mL, 12.6 mmol) and DME (30 mL) were combined in a round bottom flask. The stirred suspension was degassed for 10 minutes with bubbling N2 then heated to 85° C. After 4 h, the reaction mixture was poured into saturated aqueous NaHCO3. The aqueous phase was extracted 3× with EtOAc and the combined organics were dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue was purified by silica column chromatography (25% to 75% EtOAc/Hexane) to afford the title compound 2-[5-(4-Chloro-2-formyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.85 g, 78%).

reactant | 2-(5-Bromo-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.32 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)Br | C12H18BrN3O2
reactant | 4-Chloro-2-formyl-phenylboronic acid | 6.32 mmol, 1.17 g | ClC1=CC(=C(C=C1)B(O)O)C=O | C7H6BClO3
catalyst | Pd(PPh3)4 | 0.316 mmol, 365 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 30 mL | COCCOC | C4H10O2
product | 2-[5-(4-Chloro-2-formyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.85 g, 78% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=C(C=C(C=C1)Cl)C=O | C19H22ClN3O3
